US09403818B2
Preparation of methyl 1-cyclopropyl-8-(1H-indol-5-yl)-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(1H-indol-5-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (100 mg, 0.34 mmol) and 1H-indol-5-yl-boronic acid (83 mg, 0.51 mmol) to afford the title compound as a yellow solid (60 mg, 47%).

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.34 mmol, 100 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | 1H-indol-5-yl-boronic acid | 0.51 mmol, 83 mg | N1C=CC2=CC(=CC=C12)B(O)O | C8H8BNO2
product | methyl 1-cyclopropyl-8-(1H-indol-5-yl)-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 60 mg, 47% | C1(CC1)C=1C=C(C(N2C=CC(=C(C12)C)C=1C=C2C=CNC2=CC1)=O)C(=O)OC | C23H20N2O3
